US05798316
A stirred solution of 6.0 grams (0.0268 mole) of 4-methoxyphenyl isocyanate, 5.16 grams (0.028 mole) of ethyl 3-amino-4,4,4-trifluorocrotonate, and 4.45 grams (0.032 mole) of potassium carbonate in 40 mL of N,N-dimethylformamide was heated to 140° C. where it stirred for one hour. After this time, the reaction mixture was poured into 100 mL of 10% aqueous hydrochloric acid. The resulting mixture was stirred for ten minutes and then extracted with three 50 mL portions of ethyl acetate. The combined ethyl acetate extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to yield a black solid. This black solid was purified by flash chromatography, yielding 4.51 grams of 3-(4-methoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione. The NMR spectrum was consistent with the proposed structure.

reactant | 4-methoxyphenyl isocyanate | 0.0268 mole, 6.0 grams | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 0.028 mole, 5.16 grams | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | potassium carbonate | 0.032 mole, 4.45 grams | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 3-(4-methoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 4.51 grams | COC1=CC=C(C=C1)N1C(NC(=CC1=O)C(F)(F)F)=O | C12H9F3N2O3
